US08247429B2
N-[2-(1,2-dimethyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl)ethyl]acetamide
To a solution of N-[2-(1,2-dimethyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide (55.7 mg, 0.207 mmol) in methanol (2 mL) was added palladium-carbon powder (10 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 7 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure and purified by thin layer chromatography (methanol/ethyl acetate=13/87) to give the title compound (38.2 mg, yield 68%).

reactant | N-[2-(1,2-dimethyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide | 0.207 mmol, 55.7 mg | CC=1N(N=C2C=CC3=C(C12)C(CC3)=CCNC(C)=O)C | C16H19N3O
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | N-[2-(1,2-dimethyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl)ethyl]acetamide | 38.2 mg, yield 68% | CC=1N(N=C2C=CC3=C(C12)C(CC3)CCNC(C)=O)C | C16H21N3O
